US06100275
8-Methyl-3-(4-trifluoromethylphenyl)-8-azabicyclo[3.2.1]octan-3-ol
The title compound was prepared from 4-bromobenzotrifluoride, n-butyllithium in hexanes (31.2 mL, 2.5M; 77.9 mmol) and 8-methyl-8-azabicyclo[3.2.1]octan-3-one (5 g, 36 mmol). Yield 6.2 g (60%) as a yellow solid, m.p. 189.2-190.5° C.

reactant | 4-bromobenzotrifluoride | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | n-butyllithium | C(CCC)[Li]
reactant | 8-methyl-8-azabicyclo[3.2.1]octan-3-one | 36 mmol, 5 g | CN1C2CC(CC1CC2)=O | C8H13NO
product | 8-Methyl-3-(4-trifluoromethylphenyl)-8-azabicyclo[3.2.1]octan-3-ol | CN1C2CC(CC1CC2)(O)C2=CC=C(C=C2)C(F)(F)F | C15H18F3NO
